US08471005B2
2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine (125.0 mg, 0.0004839 mol), N,N-Diisopropylethylamine (0.126 mL, 0.000726 mol) and 3-Morpholin-4-yl-phenylamine (0.172 g, 0.000968 mol) were dissolved in 1-Methoxy-2-propanol (1.0 mL, 0.010 mol) and the reaction was irradiated at 300 watts, 200° C. for 20 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 73.26 mg of (3-Morpholin-4-yl-phenyl)-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine as a lyophilized powder. (M+H)=373.7. 1H NMR (400 MHz, DMSO, d6) δ 9.45 (s, 2H), 9.07 (s, 1H), 8.81 (d, 1H, J=8.00 Hz), 8.70 (d, 1H, J=3.76 Hz), 7.78 (m, 1H), 7.35 (d, 1H, J=4.76 Hz), 7.30 (s, 1H), 7.18 (m, 2H), 7.02 (d, 1H, J=4.80 Hz), 6.62 (m, 1H), 3.69 (m, 4H), 3.02 (m, 4H).

reactant | 2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine | 0.0004839 mol, 125.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C12H10N4OS
reactant | N,N-Diisopropylethylamine | 0.000726 mol, 0.126 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-Morpholin-4-yl-phenylamine | 0.000968 mol, 0.172 g | N1(CCOCC1)C=1C=C(C=CC1)N | C10H14N2O
reactant | 1-Methoxy-2-propanol | 0.010 mol, 1.0 mL | COCC(C)O | C4H10O2
product | (3-Morpholin-4-yl-phenyl)-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | 73.26 mg | N1(CCOCC1)C=1C=C(C=CC1)NC1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C21H20N6O
